US07906645B2
6-(2-Methoxyethoxy)nicotinaldehyde
[6-(2-methoxyethoxy)pyridine-3-yl]methanol (1.83 g 10.0 mmol) was dissolved in toluene (50 ml) and heated to reflux under an air condenser. Finely powdered MnO2 (4.0 g) was added portion wise over 2 hours. After a further 2 and a half hours of heating the mixture was taken off the boil allowed to cool slightly then filtered through celite and washed with toluene. The filtrate was concentrated in-vacuo to yield a pale yellow oil which crystallized under high vacuum to yield the crude product (1.50 g).

reactant | [6-(2-methoxyethoxy)pyridine-3-yl]methanol | 10.0 mmol, 1.83 g | COCCOC1=CC=C(C=N1)CO | C9H13NO3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 4.0 g | O=[Mn]=O
product | 6-(2-Methoxyethoxy)nicotinaldehyde | 1.50 g | COCCOC1=NC=C(C=O)C=C1 | C9H11NO3
